US08420695B2
Step 1. 5-Bromo-3-(dichloromethyl)-2-nitrothiophene
A solution of 2-bromo-5-nitrothiophene (29 g, 139 mmol) and chloroform (12.37 mL, 153 mmol) in DMF (110 mL) was added dropwise to a solution of potassium tert-butoxide (62.6 g, 558 mmol) in THF (225 mL)/DMF (180 mL). The internal temperature was monitored and maintained at <−60° C. during the addition. Upon complete addition, the reaction was stirred at −78° C. for 30 minutes. 2 N HCl was added and the products were extracted into EtOAc (3×). The combined organic extracts were washed with brine, dried over MgSO4, filtered, and concentrated in vacuo. Purification of the residue by flash silica gel column chromatography (0-10% EtOAc-hexanes) gave the title compound as a brown oil.

reactant | 2-bromo-5-nitrothiophene | 139 mmol, 29 g | BrC=1SC(=CC1)[N+](=O)[O-] | C4H2BrNO2S
reactant | chloroform | 153 mmol, 12.37 mL | C(Cl)(Cl)Cl | CHCl3
reactant | potassium tert-butoxide | 558 mmol, 62.6 g | CC(C)([O-])C.[K+]
reactant | HCl | 2 N | Cl | ClH
solvent | DMF | 110 mL | CN(C)C=O | C3H7NO
solvent | THF | 225 mL | C1CCOC1 | C4H8O
solvent | DMF | 180 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-3-(dichloromethyl)-2-nitrothiophene | BrC1=CC(=C(S1)[N+](=O)[O-])C(Cl)Cl | C5H2BrCl2NO2S
